* C:\Users\palco\github\gmid\simulations\nmos_char.asc
* Generated by LTspice 24.1.9 for Windows.
M1 N001 N006 0 N004 N_180 l={L} w=10u
Vd N001 0 {Vd}
Vg N006 0 {Vg}
Vb N004 0 {Vb}
M2 N007 N003 N002 N005 P_180 l={L} w=10u
Vb1 N005 0 {Vb_p}
Vd1 N007 0 {Vd_p}
Vg1 N003 0 {Vg_p}
V1 N002 0 {vdd}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\palco\AppData\Local\LTspice\lib\cmp\standard.mos
.include model_file.txt
.param L= 7e-07 Vg= 2.500000 VD= 2.500000 Vb= -0.000000
.op
.options logopinfo
* Note that VDD for the script is 5V, but these devices are rated for 3.3V Vdd
.param Vdd= 3.300000
.param Vg_p={VDD-Vg}
.param Vd_p={VDD-Vd}
.param Vb_p={VDD-Vb}
.backanno
.end
